US08217027B2
To a suspension of [(1R,3R)-1-amino-3-(4-methoxy-phenyl)-cyclopentyl]-methanol (6.70 g, 30.3 mmol) in diethyl carbonate was added K2CO3 (4.83 g, 35.0 mmol) and the mixture was heated at reflux for about 20 hours. The reaction was concentrated, taken up in EtOAc (150 mL), washed with water (75 mL), dried over Na2SO4, filtered and concentrated. The crude product was further purified via flash chromatography with a gradient of from 40% to 80% EtOAc in heptane. Pure fractions were combined and concentrated to yield 5.99 g (80%) of (5R,7R)-7-(4-methoxy-phenyl)-3-oxa-1-aza-spiro[4.4]nonan-2-one as a white solid.

reactant | [(1R,3R)-1-amino-3-(4-methoxy-phenyl)-cyclopentyl]-methanol | 30.3 mmol, 6.70 g | N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)OC)CO | C13H19NO2
reactant | K2CO3 | 35.0 mmol, 4.83 g | C(=O)([O-])[O-].[K+].[K+]
solvent | diethyl carbonate | C(OCC)(OCC)=O | C5H10O3
product | (5R,7R)-7-(4-methoxy-phenyl)-3-oxa-1-aza-spiro[4.4]nonan-2-one | 5.99 g, 80% | COC1=CC=C(C=C1)[C@H]1C[C@@]2(COC(N2)=O)CC1 | C14H17NO3
